Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Septic Shock
 
Major Surgical or Invasive Procedure:
Cardiac catheterization

 
History of Present Illness:
Ms. ___ is a ___ year old female with past history of ESRD 
on HD (___), Hypertension, and ?CHF (unknown EF%), 
presenting as a transfer for septic shock. 

Reportedly, patient for the past 4 days has been having 
increasing shortness of breath with increased tachypnea. Her 
main complaint is that she has developed a very sore throat, and 
therefore she has had a very low PO intake and appetite ___ to 
having pain with swallowing. She went to her dialysis session on 
___, and continued to have worsening symptoms. Patient was seen 
at ___, and was found to be minimally responsive, 
with fever to 101.8, hypotension SBPs ___, O2 sat on RA was in 
the ___, and HRs in the 160s. Patient underwent a CXR which was 
reportedly shown to have a RLL pneumonia, and a +UTI. Patient 
also found to have an elevated troponin, as well as an elevated 
BNP to 15K. Patient was then placed initially on a 
non-rebreather, with improvement in arterial saturation. Initial 
arterial gas was 7.24 / 49 / 214, and became increasingly 
verbal. Patient had a CVL placed, was started on neosynephrine 
with improvement in BPs to the ___. Patient then transferred to 
___ for further care. 

Of note, patient was recently admitted to ___ for 
right shoulder in ___. Her hospital course was 
complicated by an unresponsive episode at hemodialysis. 
Cardiology was consulted and thought to have multifactorial 
atrial tachycardia, was given metoprolol and became hypotensive 
and therefore was started on levophed intermittently, and also 
did not respond to digoxin. TTE showed LVEF 45%, no wall motion 
abnormalities, mild tricuspid regurgitation. At that time, could 
not tolerate beta blocker and her tachycardia was ___ to sepsis. 


Upon arrival, patient was then started on levophed and given 1 
gram of vancomycin upon arrival to ___ ED. 

In the ED, initial vitals: 98.1 120 98/63 16 98% Nasal Cannula 
Vitals upon transfer: ___ 20 96% Nasal Cannula 

Labs were notable for WBC 17.6 (92% PMN), Hgb 12.2, Platelet 
263, INR 1.1. Trop-T 1.04.
VBG: Lactate 4.2, pH 7.3 / 42 / 72 / 21 
BUN 28, Creatinine 5.1, Glucose 130. 
Influenza PCR: Pending

On arrival to the MICU, patient reports that she is having 
increased pain with swallowing. She does have some chest pains, 
and some cough however is unable to produce sputum. 

 
Past Medical History:
1. ESRD on Dialysis (___)
2. Hypertension
3. ? CHF
4. Recurrent dislocation of right shoulder
5. Osteoarthritis
6. Sciatica
7. Renal Artery Stenosis
8. Hepatic Cyst
9. Hyperlipidemia
10. Palpitations
11. Hypertension
12. Tobacco Depndence
13. Cholecystitis 
14. Appendicitis
15. Hyperparathyroidism
16. Multifocal Atrial Tachycardia.
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=========================
GENERAL: Appears fatigued, no acute distress. Able to speak in 
short sentences. No tachypnea. Audible rhonchi. 
HEENT: Anicteric sclera, EOMI, PERRL. No sinus tenderness. The 
pharynx has mucous plug in the posterior pharynx, posterior 
exudate or erythema. Patient has dentures in mouth. There is 
some hyperemic. 
No cervical lymphadenopathy appreciated. There is a left sided 
CVL. 
Respiratory: Rhonchi throughout both anterior lungs. 
CV: RRR, Tachycardic, S1, S2. Difficult to fully assess given 
level of lung rhonchi. 
Abdomen: Soft, NT/ND. No hepatomegaly appreciated. 
Extremities: No ___ edema bilaterally. 
NEURO: CN II-XII grossly intact, sensation intact to gross touch 
in lower extremities. 

DISCHARGE PHYSICAL EXAM
========================
Vitals: T 97.6 109/66 72 16 98% RA
GENERAL: Tired appearing in NAD, on HD now
HEENT: Anicteric sclera, EOMI, PERRL. Patient has dentures in 
mouth. OP clear
Neck: No cervical lymphadenopathy appreciated. JVP = 5
Respiratory: Decreased bilateral breath sounds without rhonchi 
or wheeze
CV: RRR, V/VI systolic murmur heard at base
Abdomen: BS+, soft, NTND
Extremities: No ___ edema bilaterally. 
NEURO: CN II-XII grossly intact, sensation intact to gross touch 
in lower extremities
 
Pertinent Results:
ADMISSION LABS
===============
___ 04:15AM BLOOD WBC-17.6* RBC-3.93 Hgb-12.2 Hct-39.6 
MCV-101* MCH-31.0 MCHC-30.8* RDW-15.8* RDWSD-58.9* Plt ___
___ 04:15AM BLOOD ___ PTT-29.4 ___
___ 04:15AM BLOOD Plt ___
___ 04:15AM BLOOD Glucose-130* UreaN-28* Creat-5.1* Na-135 
K-4.5 Cl-98 HCO3-21* AnGap-21*
___ 04:15AM BLOOD ALT-14 AST-29 AlkPhos-89 TotBili-0.6
___ 04:15AM BLOOD CK-MB-13*
___ 04:15AM BLOOD cTropnT-1.04*
___:15AM BLOOD Albumin-3.1* Calcium-8.9 Phos-3.6 Mg-1.7
___ 04:53AM BLOOD ___ pO2-72* pCO2-42 pH-7.30* 
calTCO2-21 Base XS--5
___ 04:53AM BLOOD Lactate-4.2*
___ 07:48AM BLOOD freeCa-1.12

IMAGING
========
___ 
Imaging CHEST (PORTABLE AP):  My read: Rotation to the left. 
There is a right lower lobe consolidative process, with 
increased vascular markings in the upper lobes. Right IJ in the 
low SVC. 

EKG: sinus, left axis deviation, TWI in V4-V6. 

Portable TTE (Complete) Done ___ at 2:37:31 ___
Conclusions   
 The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thicknesses 
are normal. The left ventricular cavity size is normal. Overall 
left ventricular systolic function is severely depressed (LVEF= 
25 %) with mid to distal/apical LV akinesis. No masses or 
thrombi are seen in the left ventricle. There is no ventricular 
septal defect. Right ventricular chamber size is normal with 
depressed free wall contractility. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. Trace aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Mild (1+) mitral regurgitation is 
seen. The tricuspid valve leaflets are mildly thickened. There 
is mild pulmonary artery systolic hypertension. There is no 
pericardial effusion.   

Portable TTE (Focused views) Done ___ at 10:54:21 AM      
Conclusions   
 There is mild to moderate regional left ventricular systolic 
dysfunction with hypokinesis of the distal ___ of the left 
ventricle. The remaining segments contract normally (LVEF = 
35-40%). Right ventricular chamber size and free wall motion are 
normal. There is no aortic valve stenosis. Trace aortic 
regurgitation is seen. Mild (1+) mitral regurgitation is seen. 
There is mild pulmonary artery systolic hypertension. There is 
no pericardial effusion.

 IMPRESSION: Mild to moderate regional left ventricular systolic 
dysfunction, c/w takotsubo cardiomyopathy.

 Compared with the prior study (images reviewed) of ___, 
there has been substantial improvement in LVEF, consistent with 
resolving takotsubo cardiomyopathy.   

CHEST (PORTABLE AP) Study Date of ___ 1:54 ___ 
IMPRESSION:  
Continued interval improvement in multifocal airspace opacities, 
now mild.  No new or worsening consolidation or edema. 

Micro:
___ 4:06 am Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 

                            **FINAL REPORT ___

   Respiratory Viral Culture (Final ___: 
      No respiratory viruses isolated. 

___ 4:00 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 11:10 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 

Labs on discharge:

___ 05:58AM BLOOD WBC-8.8 RBC-2.97* Hgb-9.0* Hct-28.3* 
MCV-95 MCH-30.3 MCHC-31.8* RDW-16.2* RDWSD-56.8* Plt ___
___ 10:00AM BLOOD ___ PTT-63.1* ___
___ 05:58AM BLOOD Glucose-65* UreaN-12 Creat-2.9*# Na-135 
K-3.9 Cl-93* HCO3-29 AnGap-___ year old female, with past history of ESRD, CHF, presenting 
with hypotension, hypoxia, concern for septic shock ___ to 
pneumonia. 

ACTIVE ISSUES
===============
# MAT, dual atrial pathways: 
Patient admitted with evidence of irregularity on telemetry 
while in SVT in MICU.  She was amiodarone loaded but this was 
then discontinued as per cardiology recommendations.  She 
received digoxin; however, ultimately decision made to stop this 
medication.  She was started on low dose metoprolol which was 
ultimately uptitred to 75mg succinate daily. She was started on 
a heparin gtt, however, after a subsequent event of SVT, it was 
noted that she was in MAT, not atrial fibrillation, and thus she 
would not require ongoing anticoagulation. Thus her heparin gtt 
was discontinued and she was discharged on metoprolol for 
continued rate control.

# Septic Shock: 
Patient with signs of septic shock, and chest radiograph with 
evidence of consolidative process in the right lower lobe. CXR 
___ with improvement in RLL ?pleural effusion s/p UF but stable 
scattered consolidations concerning for multifocal PNA. Pressor 
requirement resolved by ___ in the MICU required 
levophed). She was initially treated with Vancomycin, Cefepime 
and Doxycycline (day ___- ___.  She was then transitioned to 
Vanc/Ceftaz for ease of admission post HD.  Treated for a total 
8 day course. 

# NSTEMI/Cardiomyopathy found to have Takotsubo's CM: 
Patient with elevated troponin-T and newly reduced EF (LVEF: 
35%). Seen by cardiology and started on heparin gtt, ASA, 
atorvastatin. Sinus tachycardia likely secondary to NSTEMI and 
sepsis. EKG with new TWI in V1. Her enzymes continued to 
downtrend. TTE was c/w Takotsubo's CM, with repeat TTE showing 
the same. She underwent coronary angiogram which was negative 
for intervenable lesions, confirming the diagnosis of 
Takotsubo's. The patient was started on lisinopril 5mg for this, 
had metoprolol added for her MAT, and will have cardiology 
follow-up in the future. 

# Hypoxemic Respiratory Failure due to acute systolic CHF due to 
___'s cardiomyopathy:
Patient was initially admitted with respiratory failure.  Likely 
___ to underlying PNA and ?contributions from low EF, NSTEMI.  
She received supplemental oxygen but was never intubated while 
in the MICU.  Her PNA and cardiomyopathy were treated as above.

# ESRD on Dialysis: 
___ schedule at baseline.  Renal was consulted and she 
received HD in house. Her weight following last HD day was 59kg.

# Macrocytic Anemia: 
Patient likely has baseline anemia ___ to ESRD.  Remained stable 
during admission.

# Chronic Right Shoulder Pain: 
Patient with right shoulder pain, likely ___ to recent right 
shoulder dislocation, on gabapentin 100 mg TID.  Gabapentin held 
initially and restarted and well tolerated in house.

TRANSITIONAL ISSUES:  
 - Please plan follow-up TTE in the next few months to assess 
resolution of Takotsubo's CM
 - Pt was started on 75mg metoprolol succinate QD for rate 
control of her MAT
 - Do not hold patient's metoprolol prior to dialysis, she has 
had episodes of RVR in this setting
 - Last HD was on ___
 - Post-HD weight on ___ was 59 kg
 - Patient was full code this admission
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 650 mg PO Q8H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Bisacodyl 5 mg PO DAILY:PRN constipaton 
4. Diltiazem 30 mg PO DAILY 
5. Docusate Sodium 100 mg PO DAILY 
6. Gabapentin 100 mg PO TID 
7. sevelamer CARBONATE 400 mg PO TID W/MEALS 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q8H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Docusate Sodium 100 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. Benzonatate 100 mg PO TID:PRN sore throat, cough 
6. Bisacodyl 5 mg PO DAILY:PRN constipaton 
7. sevelamer CARBONATE 400 mg PO TID W/MEALS 
8. Gabapentin 100 mg PO TID 
9. Metoprolol Succinate XL 75 mg PO DAILY 
10. Lisinopril 5 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Septic shock due to pneumonia
End stage renal disease on hemodialysis
multifocal atrial tachycardia
___'s cardiomyopathy
non-ST elevation myocardial infarction
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms ___

You were hospitalized at ___ for a very bad pneumonia. You 
were initially cared for in the intensive care unit, where you 
were given strong antibiotics and medicine to keep your blood 
pressure up. While you were in the hospital, it was noted that 
you had some changes in your heart. You had ultrasounds of your 
heart which showed it wasn't pumping as it should be. You had 
further evaluation with a coronary angiogram, which showed that 
you did not have a heart attack as the cause for the changes in 
your heart. Your heart is expected to continue to improve with 
time and you will have follow-up with a cardiologist in the 
future. Please attend all appointments as listed below and take 
all your medications as prescribed.

-Your ___ Care Team
 
Followup Instructions:
___